Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abnormal labs
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ M with history of CAD
status post CABG in ___, hypertension, hyperlipidemia, with
newly diagnosed HFpEF, who was recently evaluated by cardiology
with Dr. ___ for ___ history of worsening lower
extremity edema, abdominal distention, weight gain, started on
Lasix 20 mg daily, subsequently up-titrated to 40 mg daily, 
found
to have new ___ with creatinine 4.1, referred to the ED for
further evaluation.

He was seen as a new patient by Dr. ___ on ___
given new heart failure symptoms, including a several week
history of lower extremely swelling, 6 pound weight gain, and
worsening abdominal distention. He was found to be hypervolemic
on exam with evidence of acute heart failure, was started on
Lasix 20 mg daily.
He was subsequently was not losing any weight, and Lasix was
increased to 40 mg daily on ___. TTE was obtained which showed
preserved EF >55%. Over the last week, had a 4 pound weight 
loss,
however creatinine on repeat measurement was 4.1 from previous
baseline 1.5. He Subsequently referred to the ED for further
evaluation.

On arrival to the ED, patient states that since starting Lasix 1
week prior, has noticed increasing dyspnea on exertion. Also
reports feeling more tired and fatigued with reduced p.o. 
intake.
Denies any fevers, cough, chest pain, abdominal pain, dysuria,
burning on urination.

Initial VS T 98.4 HR 82 BP 105/61 RR 19 O2 96%RA
Exam notable for:
- CV: Regular rate and rhythm no murmurs rubs or gallops
- Lungs: Clear to auscultation bilateral
- Abd: Soft nontender nondistended
Labs notable for:
- WBC 8.7 Hb 9.9, HCT 31.9, PLT 191
- CO2 16, BUN 106, Cr 4.1, glucose 93, AG 23
- Urine urea 346, Cr 111, Na 82, osmolality 363
- TSH 4.8
- proBNP 262
Imaging was notable for:
- CXR: No evidence of an acute cardiopulmonary abnormality.
Patient was given:
- Diazepam 5mg
- 1L LR
- LR 250 cc/hr

Upon arrival to the floor, patient reports he feels well. He
endorses the history above. 

 
Past Medical History:
CAD s/p 5 vessel CABG ___
HTN
HLD
Recent diagnosis of diastolic CHF
 
Social History:
___
Family History:
His father had a heart attack and sudden cardiac death at age ___
 
Physical Exam:
ADMISSION EXAM:
==================
VITAL SIGNS: 97.8, BP 118 / 68, HR 83, RR 18, 94% RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no JVD 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: 1+ pitting edema ___ 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE EXAM:
================
Vitals: 
24 HR Data (last updated ___ @ 830)
    Temp: 98.4 (Tm 98.8), BP: 102/66 (94-112/55-76), HR: 76
(76-84), RR: 18 (___), O2 sat: 94% (92-95), O2 delivery: RA,
Wt: 166.5 lb/75.52 kg  
General: NAD, pleasant, nontoxic
Lungs: CTAB, normal WOB
CV: RRR
Ext: No peripheral edema, warm and well perfused
Neuro: Normal gait, moving all extremities, answers questions 
appropriately

 
Pertinent Results:
IMAGING:
=================
Renal US ___
Unremarkable appearing kidneys.  No hydronephrosis.

CXR ___
No evidence of an acute cardiopulmonary abnormality.

LABWORK:
___
Brief Hospital Course:
Mr. ___ is a ___ M with history of CAD (s/p CABG 
___, HTN, HLD, newly diagnosed HFpEF, who presents with ___ in 
the setting of recent initiation of diuretics.

___ 
He presented with Cr of 4.1 from a baseline of 1.5, in setting 
of recently starting diuretics. Renal US was normal, and FeUrea 
was low, indicating Pre-Renal state. Given his normal/low BP's 
without his home antihypertensives, as well as symptoms of 
dizziness at home, it is possible poor perfusion contributed to 
___ as well. He was given fluids, diuretics were held, and 
antihypertensives were held. With this, his Cr improved quickly 
to 1.8 on day of discharge. It should be rechecked in 2 days, 
and he was given a prescription for a lab check. 
Antihypertensives and diuretics on hold on discharge.

#Chronic Diastolic CHF
Recent TTE showed EF >55%, and recently started on diuretics. 
Despite holding diuretics and giving fluids, he appeared 
euvolemic with minimal if any edema. Diuretics held on 
discharge. Recommend compression stockings for edema.

#HTN
He was hypotensive to normotensive this admission even with 
holding his home antihypertensives. Thus, these were all held on 
discharge. He will check his BP's at home. Can resume home 
antihypertensives in a stepwise manner after discharge, if 
needed.

#Abnormal TFT's
Slightly elevated TSH and slightly low Free T4, but these were 
drawn in the setting of significant ___ and hospitalization, 
without clinical symptoms of hypothyroidism (other than 
shortness of breath which could have been due to hypotension and 
hypovolemia and improved with fluids). Recommend recheck as 
outpatient when he is more well.

CHRONIC ISSUES:
===============
#Gout - allopurinol dose adjusted to 150mg daily based on 
current renal function (he can take ___ a tablet of his 300mg 
tabs he has at home)
#CAD - continue Aspirin, but OK for 81mng rather than the 325mg 
which he was taking
#HLD - continue home Atorvastatin 80mg Daily
#Anxiety - continue home Diazepam 2.5mg QHS

TRANSITIONAL ISSUES:
=====================
- Recheck chemistry panel in 2 days on ___. He was given a 
prescription for lab check.
- Recommend compression stockings for edema. Diuretics on hold 
at this time.
- Holding antihypertensives on discharge given low/normal BP's 
during this admission. Can resume home antihypertensives in a 
stepwise manner after discharge, if needed.
- Recheck thyroid function test as outpatient

___ is clinically stable for discharge today.  On 
the day of discharge, greater than 30 minutes were spent on the 
coordination, communication, and planning of discharge.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nadolol 160 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Diazepam 2.5 mg PO QHS 
6. amLODIPine 10 mg PO DAILY 
7. Aspirin 325 mg PO DAILY 
8. Atorvastatin 80 mg PO QPM 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*15 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Diazepam 2.5 mg PO QHS  
5. HELD- amLODIPine 10 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until discussing with PCP or cardiologist
6. HELD- Lisinopril 40 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until discussing with PCP or cardiologist
7. HELD- Nadolol 160 mg PO DAILY  This medication was held. Do 
not restart Nadolol until discussing with PCP or cardiologist
8.Outpatient Lab Work
Please draw Na, K, Cl, Bicarb, BUN, and Cr, on ___. Fax results 
to attn: Dr. ___ at ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Kidney Injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital due to worsening kidney function

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given fluids, and your kidney function was monitored. 
Your kidney function improved prior to discharge.
- We stopped your water pill (Lasix)
- We stopped for blood pressure medications, and your BP was 
normal without them.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Please get labs checked in 2 days
- Please follow up with your PCP and ___
- Follow your updated medication list
- Check your blood pressure at home, once daily, and discuss the 
results with your PCP

___ wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___